US07338959B2
2-[4-(4-{[2-(4-Methoxy-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-ethanesulfonic acid methylamide hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (82 mg, 0.20 mmol) and 2-(4-amino-phenyl)-ethanesulfonic acid methylamide (43 mg, 0.20 mmol) as a white solid (105 g, 85%). 1H NMR (300 MHz, d6-DMSO) δ 10.18 (br s, 1H), 9.46 (br s, 1H), 7.88 (d, J=6.6 Hz, 1H), 7.54-7.62 (m, 3H), 7.40-7.47 (M, 3H), 7.18-7.26 (M, 3H), 7.01 (M, 1H), 6.92 (d, J=8.4 Hz, 2H), 5.83 (d, J=6.3 Hz, 1H), 4.68 (d, J=5.4 Hz, 2H), 3.73 (s, 3H), 3.72 (s, 3H), 3.48 (s, 3H), 3.23-3.28 (m, 2H), 2.87-2.93 (M, 2H), 2.60 (d, J=4.8 Hz, 3H). MS (ESI) m/z=587 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 82 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1)C | C21H21ClN6O
reactant | 2-(4-amino-phenyl)-ethanesulfonic acid methylamide | 0.20 mmol, 43 mg | CNS(=O)(=O)CCC1=CC=C(C=C1)N | C9H14N2O2S
product | 2-[4-(4-{[2-(4-Methoxy-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-ethanesulfonic acid methylamide hydrochloride | Cl.CNS(=O)(=O)CCC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C)C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1 | InChI=1S/C30H34N8O3S.ClH/c1-31-42(39,40)18-16-21-5-9-23(10-6-21)34-29-32-17-15-28(36-29)37(2)24-11-14-27-26(19-24)35-30(38(27)3)33-20-22-7-12-25(41-4)13-8-22;/h5-15,17,19,31H,16,18,20H2,1-4H3,(H,33,35)(H,32,34,36);1H
